Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.580975002980001
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[O:10],1.9026265409
[C:1].[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.1149848792
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7],4.18917517001
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1][C:2],7.1696679858
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.48858861208
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.14645701177
[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2][C:9]([C:6]([C:4]#[C:3][H:5])([H:7])[H:8])([H:10])[H:11],0.8873651245899999
[C:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])[H:9].[H:4]>>[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],-3.43401321941
[C:7]([H:8])[H:9].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.98983963427
[C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.45822502073
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9].[H:10],4.67809166284
[O:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],1.7569738588900004
[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.35846935427
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1],4.18185858523
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.87353376098
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:11][H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-3.96125392141
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.01065762014
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.4955735071900005
[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3]([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12].[H:4],3.77832893199
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]#[C:5][H:6]>>[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.52323900614
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-3.56762007239
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.3910127773500003
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:14]([H:15])([H:16])[H:17].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.7961218506800005
[C:1]#[C:2].[C:3](#[C:4][C:5]([H:6])[H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([C:4]=[C:5]([H:6])[H:7])[O:8][H:9],-5.17185232696
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:3],1.9933180529400003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],5.009894818469999
